US06107291
1-(4-Methoxy-benzenesulfonyl)-3-styryl-azepane-2-carboxylic acid hydroxyamide was synthesized from 1-(4-Methoxy-benzenesulfonyl)-3-styryl-azepane-2-carboxylic acid in the same manner as the procedures used for the preparation of 3-Benzyloxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid hydroxyamide: MS (M+H)+ =431, (M+NH4)+ =448, (M-H)- =429.

reactant | 1-(4-Methoxy-benzenesulfonyl)-3-styryl-azepane-2-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)N1C(C(CCCC1)C=CC1=CC=CC=C1)C(=O)O | C22H25NO5S
reactant | 3-Benzyloxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid hydroxyamide | ONC(=O)C1N(CCCCC1COCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C22H28N2O6S
product | 1-(4-Methoxy-benzenesulfonyl)-3-styryl-azepane-2-carboxylic acid hydroxyamide | ONC(=O)C1N(CCCCC1C=CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C22H26N2O5S
